US08809336B2
A degassed mixture of 4-amino-piperidine-4-carboxylic acid 4-chloro-benzylamide dihydrochloride (48 mg, 0.13 mmol), 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (21 mg, 0.12 mmol), triethylamine (126 uL, 0.9 mmol) and n-butanol (1.2 mL) was stirred at 100° C. for 18 h. The solvents were removed by evaporation and the crude mixture was first purified on a SCX-II acid resin, eluting with methanol then 2M ammonia/methanol, and then by preparative TLC, eluting with 10% methanol in dichloromethane, to give 4-amino-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-piperidine-4-carboxylic acid 4-chloro-benzylamide (37 mg, 0.096 mmol, 80%). LC-MS (LCT2) m/z 385 [M+H+], Rt 2.84 min.

reactant | 4-amino-piperidine-4-carboxylic acid 4-chloro-benzylamide dihydrochloride | 0.13 mmol, 48 mg | Cl.Cl.ClC1=CC=C(CNC(=O)C2(CCNCC2)N)C=C1
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.12 mmol, 21 mg | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | triethylamine | 0.9 mmol, 126 uL | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 1.2 mL | C(CCC)O | C4H10O
product | 4-amino-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-piperidine-4-carboxylic acid 4-chloro-benzylamide | 0.096 mmol, 37 mg, 80% | ClC1=CC=C(CNC(=O)C2(CCN(CC2)C=2C3=C(N=CN2)NC=C3)N)C=C1 | C19H21ClN6O
